### PR TITLE
[Merged by Bors] - chore(SetTheory): split `Cardinal/Basic.lean`

### PR DESCRIPTION
**Pull request by Vierkantor**
This PR splits `SetTheory.Cardinal.Basic` into three files:
* `Cardinal/Defs.lean`: definition of `Cardinal`, addition, zero, `א0`
* `Cardinal/Order.lean`: definition of pre/linear/wellorder on `Cardinal`, semiring and ordered semiring structures
* `Cardinal/Basic.lean`: leftovers, in particular finite/countable/small types and sets

In particular, `Defs.lean` defines cardinals without importing any algebra (measured with an `assert_not_exists Monoid`).

I would have liked to do more with `Cardinal/Order.lean` such as splitting it into a file focused more on the order and a file focused more on the arithmetic, but unfortunately the two are currently so interwoven that it would not make sense to break them apart. (It would require substantial redoing of proofs.) Even moving the `Preorder Cardinal` instance upstream is hard since it depends on Schröder-Bernstein which imports lots of algebra. It wouldn't actually help the imports much.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by jcommelin** [comment]
Thanks :tada: 

If CI passes, please remove the label `awaiting-CI` and merge this yourself, by adding a comment `bors r+`.

bors d+

File: Mathlib/SetTheory/Cardinal/Basic.lean [hunk 1]
```diff
@@ -772,249 +127,10 @@ theorem lift_iInf {ι} (f : ι → Cardinal) : lift.{u, v} (iInf f) = ⨅ i, lif
...
-@[simp]
-theorem lift_succ (a) : lift.{v, u} (succ a) = succ (lift.{v, u} a) :=
-  le_antisymm
-    (le_of_not_gt fun h => by
-      rcases lt_lift_iff.1 h with ⟨b, h, e⟩
-      rw [lt_succ_iff, ← lift_le, e] at h
-      exact h.not_lt (lt_succ _))
-    (succ_le_of_lt <| lift_lt.2 <| lt_succ a)
-
 /-! ### Limit cardinals -/
```
Comment (vihdzp) [inline Mathlib/SetTheory/Cardinal/Basic.lean:130]: Am I reading this right? Is this section completely empty?

File: Mathlib/SetTheory/Cardinal/Basic.lean [hunk 2]
```diff
@@ -1126,116 +242,8 @@ theorem lift_iSup_le_lift_iSup' {ι : Type v} {ι' : Type v'} {f : ι → Cardin
...
-    {ι : Type u} [hι : Nonempty ι] (f : ι → Cardinal.{v}) (hf : BddAbove (range f))
-    (ω : Cardinal.{v}) (hω : ¬ ω.IsLimit)
-    (h : ⨆ i : ι, f i = ω) : ∃ i, f i = ω := by
-  refine (not_and_or.mp hω).elim (fun e ↦ ⟨hι.some, ?_⟩)
-    (Cardinal.exists_eq_of_iSup_eq_of_not_isSuccPrelimit.{u, v} f ω · h)
-  cases not_not.mp e
-  rw [← le_zero_iff] at h ⊢
-  exact (le_ciSup hf _).trans h
-
 /-! ### Indexed cardinal `prod` -/
```
Comment (vihdzp) [inline Mathlib/SetTheory/Cardinal/Basic.lean:245]: This section only contains two theorems. Maybe we should re-section this file in some other way?

**Review by vihdzp — COMMENTED** [review]
Thanks! Some small remarks:

File: Mathlib/SetTheory/Cardinal/Basic.lean (hunk 2 above)
Comment (Vierkantor) [reply Mathlib/SetTheory/Cardinal/Basic.lean:245]: It looks like we can upstream `prod_le_prod` to `Cardinal/Order.lean`, but `prod_eq_of_fintype` requires an import of `Mathlib.Data.Fintype.BigOperators` (this is the only use of that lemma in the file!). We could in fact downstream it to `Cardinal/Finite.lean`, but that would not fit in with the rest of the file (which covers `Nat.card`). For that one, since it does contain `lift`, I'll keep it in `Cardinal/Basic.lean` but move it to the section on `lift`.

**Comment by Vierkantor** [comment]
Build passed. Violeta's comments should be addressed adequately, so:

bors merge
